* Z:\home\aalmela\scm\git\utn\eaiii\2020\docs\source\adaptacion\spice\FiltroPI.asc
R1 i 0 {Rl}
C1 i 0 {Cl}
V1 s 0 SINE(0 6 150e6)
V2 N001 0 28
B2 N004 0 V=(V(s) >= 0) * V(s)
R2 N003 N004 {rg}
C3 NC_01 N003 {cg}
L3 N002 i {Loa}
L1 N001 N002 1m
B1 N002 0 I=(V(s) >= 0) * V(s)
C2 N002 0 100p
;ac dec 10000 1e6 1e9
.tran 0 100100n 100000n
.param rg  = 3.73e-01
.param cg  = 8.16e-10
.param rgp  = 3.31e+00
.param cgp  = 1.55e-10
.param Loa = 1.10e-08
.param Rl = 8.98e+00
.param Cl = 1.08e-10
.param Ls = 1.00e-07
.param Cs = 1.13e-11
.backanno
.end
